US09284296B2
A mixture of C-(4-Methoxy-[2,2′]bipyridinyl-6-yl)-methylamine (62.0 mg, 0.29 mmol), triethylamine (55.1 μL, 0.43 mmol), 4-Fluoro-benzenesulfonyl chloride (72.0 mg, 0.371 mmol) and dichloromethane (3 mL) was stirred at 25° C. for 2 hours. The reaction mixture was concentrated under reduced pressure and the crude purified by column chromatography on silica gel (0-100% Ethyl acetate in Hexane) to afford 4-Fluoro-N-(4-methoxy-[2,2′]bipyridinyl-6-ylmethyl)-benzenesulfonamide as a white solid (48.1 mg, 38%).

reactant | C-(4-Methoxy-[2,2′]bipyridinyl-6-yl)-methylamine | 0.29 mmol, 62.0 mg | COC1=CC(=NC(=C1)CN)C1=NC=CC=C1 | C12H13N3O
reactant | triethylamine | 0.43 mmol, 55.1 μL | C(C)N(CC)CC | C6H15N
reactant | 4-Fluoro-benzenesulfonyl chloride | 0.371 mmol, 72.0 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-Fluoro-N-(4-methoxy-[2,2′]bipyridinyl-6-ylmethyl)-benzenesulfonamide | 48.1 mg, 38% | FC1=CC=C(C=C1)S(=O)(=O)NCC1=CC(=CC(=N1)C1=NC=CC=C1)OC | C18H16FN3O3S
